US06107482
6-Methyl-2,4-bis(dimorpholinomethyl)-s-triazine
A mixture of 2-methyl-4,6-Bis-(dibromomethyl)-s-triazine (0.4 g, 0.91 mmol) and morpholine (8 mL) was stirred at room temperature for 2 days and then heated to 70-80° C. and stirred for an additional 2 hours. The precipitate was filtered and the filtrate was evaporated under reduced pressure to remove the excess morpholine. The solid residue was recrystallized from ethyl acetate giving 0.40 g (95%) of the title compound as big cubic colorless crystals.

reactant | 2-methyl-4,6-Bis-(dibromomethyl)-s-triazine | 0.91 mmol, 0.4 g | CC1=NC(=NC(=N1)C(Br)Br)C(Br)Br | C6H5Br4N3
reactant | morpholine | 8 mL | N1CCOCC1 | C4H9NO
product | 6-Methyl-2,4-bis(dimorpholinomethyl)-s-triazine | CC1=NC(=NC(=N1)C(N1CCOCC1)N1CCOCC1)C(N1CCOCC1)N1CCOCC1 | C22H37N7O4
